US05380721
To a cooled mixture of phthalic anhydride (50 g, 0.34 mol) and aluminum chloride (99 g) in tetrachloroethane (300 mL) was added dropwise 1,3-diethylbenzene (50 g) over 11/4 hours. The mixture was stirred in an ice bath for 30 minutes, additional tetrachloroethane was added, and the mixture was stirred for 2 hours. The reaction mixture was poured into concentrated HCl/ice (1 L), ether (500 mL) was added and the mixture was filtered. The organic layer was separated, washed with saturated Na2CO3 (6×), the basic layer was extracted with CH2Cl2 and the CH2Cl2 layer was extracted with 2N NaOH and the 2N NaOH layer was acidified. The basic layer was acidified with aqueous HCl, this acidic layer was combined with the above acidified 2N NaOH layer and the mixture was extracted with ether. The CH2Cl2 layer and the ether layer were combined and concentrated in vacuo. The residue was slurried with water, filtered and rinsed with hexane to afford 88.8 g (93%) of 2-(2,4-diethylbenzoyl)benzoic acid, m.p. 115°-118° C.

reactant | phthalic anhydride | 0.34 mol, 50 g | C1(C=2C(C(=O)O1)=CC=CC2)=O | C8H4O3
reactant | aluminum chloride | 99 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | 1,3-diethylbenzene | 50 g | C(C)C1=CC(=CC=C1)CC | C10H14
reactant | ether | 500 mL | CCOCC | C4H10O
solvent | tetrachloroethane | 300 mL | ClCC(Cl)(Cl)Cl | C2H2Cl4
product | 2-(2,4-diethylbenzoyl)benzoic acid | 88.8 g, 93% | C(C)C1=C(C(=O)C2=C(C(=O)O)C=CC=C2)C=CC(=C1)CC | C18H18O3
